US09388161B2
A 40-mL resealable tube was charged with 1-[(2S)-6-bromo-5-hydroxy-2-methyl-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one (90 mg, 0.32 mmol), 2,2-dichloroethyl methanesulfonate (82 mg, 0.42 mmol), potassium carbonate (135 mg, 0.96 mmol), and N,N-dimethylformamide (10 mL). The resulting mixture stirred for 48 h at 110° C. After cooling to room temperature, the reaction mixture was filtered and concentrated under reduced pressure. The residue was purified by preparative thin layer chromatography (eluting with petroleum ether/ethyl acetate, 10:1 then 1:2) to afford 1-[(2S)-6-bromo-5-(2,2-dichloro ethoxy)-2-methyl-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one (56 mg, 46%) as light yellow oil. MS (ESI, pos. ion) m/z 31, 383 [M+H]+.

reactant | 1-[(2S)-6-bromo-5-hydroxy-2-methyl-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one | 0.32 mmol, 90 mg | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)O | C12H14BrNO2
reactant | 2,2-dichloroethyl methanesulfonate | 0.42 mmol, 82 mg | CS(=O)(=O)OCC(Cl)Cl | C3H6Cl2O3S
reactant | potassium carbonate | 0.96 mmol, 135 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-[(2S)-6-bromo-5-(2,2-dichloro ethoxy)-2-methyl-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one | 56 mg, 46% | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)OCC(Cl)Cl | C14H16BrCl2NO2
